US08012976B2
8-(4-((Dimethylamino)methyl)phenyl)-9-p-tolyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of ethyl 2-(4-((dimethylamino)methyl)phenyl)-4-oxo-3-p-tolyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (120 mg) in 85% hydrazine monohydrate (1 mL) and methanol (3 mL) was stirred at 10° C. for 2.5 h. The mixture was purified by prep-HPLC to obtain the title compound as a white solid (14 mg, yield 11%). LC-MS (ESI) m/z: 411 (M+1)+; 1H-NMR (400 MHz, CD3OD) δ (ppm): 2.18 (s, 3H), 2.31 (s, 6H), 3.57 (s, 2H), 4.25-4.27 (d, J=8.4 Hz, 1H), 4.72-4.74 (d, J=8.4 Hz, 1H), 6.95-7.02 (m, 4H), 7.19-7.29 (m, 5H), 7.55-7.57 (m, 1H), 7.62-7.64 (t, J=8 Hz, 1H).

reactant | ethyl 2-(4-((dimethylamino)methyl)phenyl)-4-oxo-3-p-tolyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 120 mg | CN(C)CC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=CC=C(C=C1)C)=O)C(=O)OCC | C28H30N2O3
reactant | hydrazine monohydrate | 1 mL | O.NN
solvent | methanol | 3 mL | CO | CH4O
product | 8-(4-((Dimethylamino)methyl)phenyl)-9-p-tolyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 14 mg, yield 11% | CN(C)CC1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=C(C=C1)C | C26H26N4O
